US06716856B1
Preparation of 7-Phenylsulfonyl-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole.
A solution of Oxone (2 g, 3.2 mmol) in 6 ml of water was added dropwise to a solution of 7-phenylthio-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole (0.24 g, 0.66 mmol), prepared as described in example 8, in methanol (6 ml), maintained under stirring at 0° C. After the addition was complete, the reaction mixture was allowed to warm to room temperature and stirring was continued for about 1.5 hours. Water was then added and the mixture was extracted with dichloromethane. The combined organic layers were washed with brine, dried over sodium sulfate end evaporated. The residue was chromatographed on silica gel (cyclohexane:ethyl acetate=7:3), to yield the title compound as a colourless solid (0.175 g, 61%): m.p. 165-166° C.

reactant | Oxone | 3.2 mmol, 2 g | OOS(=O)[O-].[K+]
reactant | 7-phenylthio-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | 0.66 mmol, 0.24 g | C1(=CC=CC=C1)SC1C(CC(C=2C(=NN(C12)C1=NC=CC=C1)C)=O)(C)C | C21H21N3OS
reactant | water | 6 ml | O | H2O
solvent | methanol | 6 ml | CO | CH4O
product | 7-Phenylsulfonyl-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | 0.175 g, 61% | C1(=CC=CC=C1)S(=O)(=O)C1C(CC(C=2C(=NN(C12)C1=NC=CC=C1)C)=O)(C)C | C21H21N3O3S
